US07538127B2
ii) (5-{(1R)-2-[Bis(phenylmethyl)amino]-1-hydroxyethyl}-2-hydroxyphenyl)formamide
A solution of {5-{(1R)-2-[bis(phenylmethyl)amino]-1-hydroxyethyl}-2-[(phenylmethyl)oxy]phenyl}formamide (1.40 g) in EtOAc (15 ml) and EtOH (15 ml) was hydrogenated over 10% palladium on carbon (140 mg). When hydrogen uptake had ceased the mixture was filtered through celite, the solvent evaporated in vacuo and the residue purified on a silica SPE bond elut cartridge (70 g) using a gradient of 0% to 5% MeOH in DCM (Gradmaster™). The appropriate fractions were evaporated in vacuo to give the title compound (380 mg). LCMS RT=2.17 min.

reactant | {5-{(1R)-2-[bis(phenylmethyl)amino]-1-hydroxyethyl}-2-[(phenylmethyl)oxy]phenyl}formamide | 1.40 g | C1(=CC=CC=C1)CN(C[C@H](O)C=1C=CC(=C(C1)NC=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C30H30N2O3
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 15 ml | CCOC(=O)C | C4H8O2
solvent | EtOH | 15 ml | CCO | C2H6O
catalyst | palladium on carbon | 140 mg | [Pd] | Pd
product | (5-{(1R)-2-[Bis(phenylmethyl)amino]-1-hydroxyethyl}-2-hydroxyphenyl)formamide | 380 mg | C1(=CC=CC=C1)CN(C[C@H](O)C=1C=CC(=C(C1)NC=O)O)CC1=CC=CC=C1 | C23H24N2O3
